US07897792B2
2-(2-Fluoro-3-nitrobenzyl)-3-oxobutanoic acid ethyl ester
Ethyl acetoacetate (37.4 mL, 294 mmol) was added at 0° C. to a suspension of sodium hydride (65%, 10.8 g) in THF (600 mL), and the mixture was stirred at 0° C. for 30 minutes. It was added dropwise at 0° C. to a solution of 1-bromomethyl-2-fluoro-3-nitrobenzene (compound 1a-1) (68.7 g, 294 mmol) in THF (400 mL), and the reaction mixture was stirred at room temperature overnight. The reaction mixture was then poured into 0.5N hydrochloric acid and extracted with ethyl acetate. The organic extract was washed with saturated saline and dried over magnesium sulfate. A crude product was obtained by vacuum concentration, and purified by column chromatography (ethyl acetate:hexane=1:3) to yield the title compound (52.2 g, 63%) as a yellow oil.

reactant | Ethyl acetoacetate | 294 mmol, 37.4 mL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydride | 10.8 g | [H-].[Na+]
reactant | 1-bromomethyl-2-fluoro-3-nitrobenzene | 294 mmol, 68.7 g | BrCC1=C(C(=CC=C1)[N+](=O)[O-])F | C7H5BrFNO2
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 2-(2-Fluoro-3-nitrobenzyl)-3-oxobutanoic acid ethyl ester | 52.2 g, 63% | C(C)OC(C(C(C)=O)CC1=C(C(=CC=C1)[N+](=O)[O-])F)=O | C13H14FNO5
